US05854232
B. 1-Adamantan-1-yl-3-(furan-3-ylmethyl)-3-(pyridin-4-ylmethyl)-pyrrolidine-2.5-dione
Under a nitrogen atmosphere were combined diisopropylamine (2.72 ml, 6.79 mmol) and anhydrous THF (30 mls), and the solution was cooled to -78° C. 2.5M butyl lithium (2.72 ml, 6.79 mmol) was added and the solution was allowed to warm to about 3-furan-3-yl-2-pyridin4-ylmethyl propionic acid ethyl ester (2.20 g (80% pure), 6.79 mmol) was added dropwise and the solution was stirred at -78° C. for 1 hour. To this solution was added 1.85 g (6.79 mmol) of N-adamantyl-1-yl-2-bromo-acetamide at -78° C. and the mixture was kept at -78° C. for 16 hours and then warmed to room temperature for 3 hours. The standard reaction workup after silica gel chromatography (1:1 EtOAC:hexane) provided 300 mg of the title compound.

reactant | diisopropylamine | 6.79 mmol, 2.72 ml | C(C)(C)NC(C)C | C6H15N
reactant | THF | 30 mls | C1CCOC1 | C4H8O
reactant | butyl lithium | 6.79 mmol, 2.5M, 2.72 ml | C(CCC)[Li]
reactant | 3-furan-3-yl-2-pyridin4-ylmethyl propionic acid ethyl ester | 6.79 mmol, 2.20 g | C(C)OC(C(CC1=COC=C1)CC1=CC=NC=C1)=O | C15H17NO3
reactant | hexane | CCCCCC | C6H14
product | 1-Adamantan-1-yl-3-(furan-3-ylmethyl)-3-(pyridin-4-ylmethyl)-pyrrolidine-2.5-dione | 300 mg | C12(CC3CC(CC(C1)C3)C2)N2C(C(CC2=O)(CC2=CC=NC=C2)CC2=COC=C2)=O | C25H28N2O3
